US09238639B2
A) 6-((2,4-Dichlorobenzyl)oxy)-3-(methoxymethoxy)-1-benzothiophene-2-carboxamide
A mixture of HOBt ammonia complex (387 mg), EDCI (487 mg), 6-((2,4-dichlorobenzyl)oxy)-3-(methoxymethoxy)-1-benzothiophene-2-carboxylic acid (700 mg) and DMF (5 mL) was stirred at room temperature for 15 h. Water was added to the mixture and the mixture was extracted with THF-AcOEt. The organic layer was washed successively with water and brine, dried over MgSO4, and concentrated in vacuo. The residue was washed with IPE and hexane to give the title compound (510 mg).

reactant | EDCI | 487 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 6-((2,4-dichlorobenzyl)oxy)-3-(methoxymethoxy)-1-benzothiophene-2-carboxylic acid | 700 mg | ClC1=C(COC2=CC3=C(C(=C(S3)C(=O)O)OCOC)C=C2)C=CC(=C1)Cl | C18H14Cl2O5S
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 6-((2,4-Dichlorobenzyl)oxy)-3-(methoxymethoxy)-1-benzothiophene-2-carboxamide | 510 mg | ClC1=C(COC2=CC3=C(C(=C(S3)C(=O)N)OCOC)C=C2)C=CC(=C1)Cl | C18H15Cl2NO4S
